US05436359
2,3-Dimethoxy-4-hydroxy-6-(10-hydroxydecyl)-5-methyl-1-(4-pyridylmethyloxy)benzene hydrochloride
A mixture of 6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol (3.70 g) obtained in Example B-1, 4-chloromethylpyridine hydrochloride (1.96 g), potassium carbonate (5.00 g) and dimethylformamide (30 ml) was stirred at room temperature for 16 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was dissolved in tetrahydrofuran (30 ml). Tetrabutylammonium fluoride trihydrate (1 g) was added, and the mixture was stirred at room temperature for 1 hour. The mixture was concentrated under reduced pressure. Methanol (50 ml) and 1N sodium hydroxide solution (10 ml) were added to the residue, and the mixture was stirred at room temperature for 16 hours. After concentration, the residue was subjected to column chromatography on silica gel and eluted with ethyl acetate. The desired fraction was concentrated. The residue was dissolved in ethanol (30 ml), and conc. hydrochloric acid (0.7 ml) was added. The crystals obtained after concentration under reduced pressure were separated by filtration and washed with ether to obtain the desired compound (1.2 g).

reactant | 6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol | 3.70 g | C(C)(=O)OCCCCCCCCCCC1=C(C(=C(C(=C1O)OC)OC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C37H52O6Si
reactant | 4-chloromethylpyridine hydrochloride | 1.96 g | Cl.ClCC1=CC=NC=C1
reactant | potassium carbonate | 5.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2,3-Dimethoxy-4-hydroxy-6-(10-hydroxydecyl)-5-methyl-1-(4-pyridylmethyloxy)benzene hydrochloride | 1.2 g | Cl.COC1=C(C(=C(C(=C1OC)O)C)CCCCCCCCCCO)OCC1=CC=NC=C1 | InChI=1S/C25H37NO5.ClH/c1-19-21(12-10-8-6-4-5-7-9-11-17-27)23(25(30-3)24(29-2)22(19)28)31-18-20-13-15-26-16-14-20;/h13-16,27-28H,4-12,17-18H2,1-3H3;1H
